US07129383B2
The product of this invention, 2-chloro-1,1,1,2,3,3,3-heptafluoropropane (CFC-217ba), is useful as an intermediate for commercially valuable fluorocarbons. For example, hydrodechlorination of CFC-217ba gives either hexafluoropropene, a useful polymer intermediate, or 1,1,1,2,3,3,3-heptafluoropropane (HFC-227ea), which finds application as a propellant and fire extinguishant. Fluorination of CFC-217ba gives octafluoropropane (FC-218) which is useful as an etchant in the electronics industry.

reactant | 2-chloro-1,1,1,2,3,3,3-heptafluoropropane | ClC(C(F)(F)F)(C(F)(F)F)F | C3ClF7
reactant | hexafluoropropene | FC(C(=C(F)F)F)(F)F | C3F6
reactant | 1,1,1,2,3,3,3-heptafluoropropane | FC(C(C(F)(F)F)F)(F)F | C3HF7
product | octafluoropropane | FC(C(C(F)(F)F)(F)F)(F)F | C3F8
